US04775695
(+)[(2-Cyclopentyl-6,7-dichloro-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]acetonitrile
A mixture of (+) 6,7-dichloro-2-cyclopentyl-5-hydroxy-2-methyl-2,3-dihydro-1H-inden-1-one (3.29 g, 11 mmole), chloroacetonitrile (1.25 g, 16.5 mmole), and potassium carbonate (3.04 g) in dimethylformamide (30 ml) was stirred at 60°-65° for three hours. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with water, dried over magnesium sulfate, and concentrated in vacuo to give the title compound as an oil (3.8 g).

reactant | (+) 6,7-dichloro-2-cyclopentyl-5-hydroxy-2-methyl-2,3-dihydro-1H-inden-1-one | 11 mmole, 3.29 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)O | C15H16Cl2O2
reactant | chloroacetonitrile | 16.5 mmole, 1.25 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (+)[(2-Cyclopentyl-6,7-dichloro-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]acetonitrile | 3.8 g | C1(CCCC1)C1(C(C2=C(C(=C(C=C2C1)OCC#N)Cl)Cl)=O)C | C17H17Cl2NO2
